US05212158
3. Cinnamoyl-glycine methyl ester
Cinnamic acid (38.0 g) was coupled to glycine methyl ester hydrochloride in dimethylformamide by treatment with dicyclohexylcarbodiimide (52.84 g) and 1-hydroxybenzotriazole (39.24 g), followed by N-methylmorpholine (37.56 ml). The reaction mixture was stirred overnight at room temperature and then worked up in the usual manner to give the desired product.

reactant | Cinnamic acid | 38.0 g | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | glycine methyl ester hydrochloride | Cl.COC(CN)=O
reactant | dicyclohexylcarbodiimide | 52.84 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 39.24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 37.56 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Cinnamoyl-glycine methyl ester | COC(CNC(C=CC1=CC=CC=C1)=O)=O | C12H13NO3
